US07429608B2
N-(5-(Trifluoromethyl)-1H-benzo[d]imidazol-2-yl)quinolin-8-amine.
A mixture of 2-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazole (66 mg, 0.3 mol, prepared according to the procedure described in WO 2004/035549 A1) and 8-aminoquinoline (29 mg, 0.6 mmol, Aldrich) in EtOH (2 mL) was subjected to microwave irradiation at 170° C. with stirring for 30 min. The reaction mixture was allowed to cool to room temperature, the solvent was removed in vacuo and the residue was purified by silica gel chromatography eluting with 3% MeOH/DCM to give the title compound as an amorphous solid. MS (ESI, pos. ion) m/z: 329 (M+1).

reactant | 2-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazole | ClC1=NC2=C(N1)C=CC(=C2)C(F)(F)F | C8H4ClF3N2
reactant | 8-aminoquinoline | 0.6 mmol, 29 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
solvent | EtOH | 2 mL | CCO | C2H6O
product | N-(5-(Trifluoromethyl)-1H-benzo[d]imidazol-2-yl)quinolin-8-amine | FC(C1=CC2=C(NC(=N2)NC=2C=CC=C3C=CC=NC23)C=C1)(F)F | C17H11F3N4
